US07642264B2
3-(2,2-Dimethyl-propyloxysulfonyl)-benzeneboronic acid
Step 2) To a solution of the above prepared 3-bromo-benzenesulfonic acid 2,2-dimethyl-propyl ester (9.83 g, 32 mmol) and triisopropyl borate (13.4 mL, 58 mmol) in THF (45 mL) at −78° C. was added n-BuLi (1.6 M in hexane, 20 mL, 32 mmol) keeping the internal temperature below −65° C. Stirring was continued at −78° C. for 1 h, then more n-BuLi (4.0 mL, 6.4 mmol) was added and stirring was continued at −78° C. for 30 min. The reaction mixture was quenched with 1 M H2SO4-sol. (40 mL), allowed to quickly (waterbath) warm to ca. 20° C. and stirred for 10 min. Diluted with EtOAc, layers were separated, washed organic layer with brine and dried over Na2SO4. Removal of the solvent in vacuum left the title compound as white solid (9.00 g, 103%). MS (ISN) 271.4 [(M−H)−].

reactant | 3-bromo-benzenesulfonic acid 2,2-dimethyl-propyl ester | 32 mmol, 9.83 g | CC(COS(=O)(=O)C1=CC(=CC=C1)Br)(C)C | C11H15BrO3S
reactant | triisopropyl borate | 58 mmol, 13.4 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | n-BuLi | 32 mmol, 1.6 M, 20 mL | [Li]CCCC
reactant | n-BuLi | 6.4 mmol, 4.0 mL | [Li]CCCC
solvent | THF | 45 mL | C1CCOC1 | C4H8O
product | 3-(2,2-Dimethyl-propyloxysulfonyl)-benzeneboronic acid | CC(COS(=O)(=O)C=1C=C(C=CC1)B(O)O)(C)C | C11H17BO5S
